US04053651
N-(3-Mercapto-2-methylpropanoyl)-L-phenylalanine
By substituting L-phenylalanine for the L-valine in the procedure of Example 22, and then treating the product by the procedure of Example 23, N-(3-actylthio-2-methylpropanoyl)-L-phenylalanine and N-(3-mercapto-2-methylpropanoyl)-L-phenylaline are obtained.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-valine | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | N-(3-actylthio-2-methylpropanoyl)-L-phenylalanine | C(C)(=O)SCC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C15H19NO4S
product | N-(3-Mercapto-2-methylpropanoyl)-L-phenylalanine | SCC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C | C13H17NO3S
